US07169803B2
(S)-2-(3-(5-chloro-2-methoxyphenyl)-3-fluoro-2-oxo-6-(trifluoromethyl)indoline-1-carbonyloxy)acetic acid (Ie2)
To a solution of (S)-XI in toluene and methylene chloride was added 0.6 mL of pyridine followed by the addition of benzyl glycolate (0.878 mL). The resulting mixture was stirred at room temperature for an hour. This reaction mixture was diluted with dichloromethane and washed with water. The organic layer was dried over Na2SO4 and condensed by rotary evaporation. The residue was chromatographed on a silica gel flash column packed with ethyl acetate: hexane (v/v, 10:1) and washed with dichloromethane to afford 1.32 g of the title compound.

reactant | (S)-3-(5-chloro-2-methoxyphenyl)-3-fluoro-2-oxo-6-(trifluoromethyl)-indoline-1-carbonyl chloride | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)C(=O)Cl)=O)F)OC | C17H9Cl2F4NO3
reactant | pyridine | 0.6 mL | N1=CC=CC=C1 | C5H5N
reactant | benzyl glycolate | 0.878 mL | C(CO)(=O)OCC1=CC=CC=C1 | C9H10O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-2-(3-(5-chloro-2-methoxyphenyl)-3-fluoro-2-oxo-6-(trifluoromethyl)indoline-1-carbonyloxy)acetic acid | 1.32 g | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)C(=O)OCC(=O)O)=O)F)OC | C19H12ClF4NO6
